US06258829B1
3-Hydroxymethyl-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine
In an atmosphere of argon, ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate (586.6 mg, 2.51 mmol) was dissolved in anhydrous THF (5.0 ml), lithium aluminum hydride THF solution (1.0 M, 5.0 ml) was added dropwise to the solution at 0° C., and the mixture was stirred at the same temperature for 2 hours. The reaction solution was mixed with sodium sulfate decahydrate at 0° C. and subjected to celite filtration. The resulting filtrate was mixed with water and extracted with ethyl acetate. The thus obtained organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (ethyl acetate:hexane=2:1) to obtain the title compound (349.5 mg, 72.8%) as white powder.

reactant | ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 2.51 mmol, 586.6 mg | CC1=C(C=C2C(=N1)CCCCC2)C(=O)OCC | C14H19NO2
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
product | 3-Hydroxymethyl-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine | 349.5 mg, 72.8% | OCC=1C=C2C(=NC1C)CCCCC2 | C12H17NO
